US07238808B2
5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine
The title compound was prepared from 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.2) (340 mg, 1 mmol) and commercially available 2-amino-5-bromopyridine (157 mg, 1 mmol) according to general procedure II. Obtained as a dark red solid (13 mg, 3%). MS (ISP) 430.3 [(M+H)+]; mp 216° C.

reactant | 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1 mmol, 340 mg | FC(C1=CC(=NC=2N1N=CC2C#C)C2=CC=C(C=C2)C(F)(F)F)F | C16H8F5N3
reactant | 2-amino-5-bromopyridine | 1 mmol, 157 mg | NC1=NC=C(C=C1)Br | C5H5BrN2
product | 5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridin-2-ylamine | FC(C1=CC(=NC=2N1N=CC2C#CC=2C=CC(=NC2)N)C2=CC=C(C=C2)C(F)(F)F)F | C21H12F5N5
